US08865752B2
To a solution of N-(4-butyrylphenyl)acetamide (3 g, 14.6 mmol) in THF (300 mL) was added 2.0 M LDA THF (18.3 mL) at −78° C. and then the reaction mixture was stirred for 1 h at −78° C. Iodoethane was added and stirred overnight at RT. The reaction mixture was quenched with sat. aq. NH4Cl and then extracted with ethyl acetate. The combined organic layers were dried over MgSO4, filtered and then concentrated. The crude product was purified by preparative TLC using 50% ethyl acetate in hexane as eluent to afford N-(4-(2-ethylbutanoyl)phenyl)acetamide as white solid. MS (ES+): m/z 234.28 (MH+).

reactant | N-(4-butyrylphenyl)acetamide | 14.6 mmol, 3 g | C(CCC)(=O)C1=CC=C(C=C1)NC(C)=O | C12H15NO2
reactant | LDA THF | 2.0 M, 18.3 mL | [Li+].CC(C)[N-]C(C)C.C1CCOC1
reactant | Iodoethane | ICC | C2H5I
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | N-(4-(2-ethylbutanoyl)phenyl)acetamide | C(C)C(C(=O)C1=CC=C(C=C1)NC(C)=O)CC | C14H19NO2
